US09290485B2
a) Tert-butyl 5-cyano-4,6-dimethylpyridin-2-ylcarbamate
To a suspension of 6-amino-2,4-dimethylnicotinonitrile (7.5 g, 48.4 mmol, prepared according to Synlett 2007, 19, 2979) and DMAP (0.591 g, 4.84 mmol) in THF (150 ml) was added Boc2O (20.23 ml, 87 mmol). The resulting mixture was stirred over night. The reaction mixture was adsorbed/concentrated onto Isolute sorbent and purified by chromatography (120 g silica, cHex/EA 100-70% cHex 30 min) to afford the desired mixture of double- and mono-protected product. The intermediate was dissolved in MeOH (175 ml) and DCM (56 ml) and cooled to 0° C. NaOH (72.6 ml, 72.6 mmol) and H2O2 (7.42 ml, 72.6 mmol) were added. Additional MeOH (ca. 15 mL) was added until the emulsion was cleared again and the reaction was stirred at that temperature for 90 min. The reaction mixture was quenched into 2N Na2SO3 (250 mL), and DCM and MeOH were slowly removed under vacuum (bath temp<50° C.). The remaining mixture was transferred into a separation funnel, diluted with additional water and extracted with DCM (6×150 mL). Drying over Na2SO4, filtration and evaporation afforded the title compound. HPLC/MS (Method F): RtF=1.59 min, [M+H]+=248.3.

reactant | 6-amino-2,4-dimethylnicotinonitrile | 48.4 mmol, 7.5 g | NC1=NC(=C(C#N)C(=C1)C)C | C8H9N3
reactant | Boc2O | 87 mmol, 20.23 ml | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 72.6 mmol, 72.6 ml | [OH-].[Na+]
reactant | H2O2 | 72.6 mmol, 7.42 ml | OO | H2O2
catalyst | DMAP | 4.84 mmol, 0.591 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | MeOH | 175 ml | CO | CH4O
solvent | MeOH | ca. 15 mL | CO | CH4O
solvent | DCM | 56 ml | C(Cl)Cl | CH2Cl2
product | Tert-butyl 5-cyano-4,6-dimethylpyridin-2-ylcarbamate | C(#N)C=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C13H17N3O2
